US03960849
3-(Phenylmethyl)-5-(trichloromethyl)-1,2,4-oxadiazole is reacted with dimethylamine to yield 5-(dimethylamino)-3-(phenylmethyl)-1,2,4-oxadiazole.

reactant | 3-(Phenylmethyl)-5-(trichloromethyl)-1,2,4-oxadiazole | C1(=CC=CC=C1)CC1=NOC(=N1)C(Cl)(Cl)Cl | C10H7Cl3N2O
reactant | dimethylamine | CNC | C2H7N
product | 5-(dimethylamino)-3-(phenylmethyl)-1,2,4-oxadiazole | CN(C1=NC(=NO1)CC1=CC=CC=C1)C | C11H13N3O
